US04826866
3-[(2,6-Dichlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester
A slurry of 9.4 g (0.04 mole) of 4-(2,6-dichlorophenyl)-3-thiosemicarbazide in 75 mL of absolute ethanol was stirred under nitrogen atmosphere while 6.8 g (0.04 mole) of ethyl 2-chloroacetoacetate was added. The reaction mixture became yellow as it stirred for 1 hr at room temperature. Then 40 mL of 2N ethanolic hydrogen chloride was added and the reaction mixture heated at reflux for 3 hr. Insoluble sulfur was removed by filtration and the filtrate concentrated in vacuo to give an orange solid, which when triturated with hot acetone yielded 11.3 g of pale yellow crystals, mp: plastic 175°-191° C., degasses at 195° C. and forms a clear melt at 215° C. Recrystallization from acetonitrile gave 6.5 g of product, mp 180°-190° C. Additional material was obtained from the reaction mixture filtrate upon setting. The filtrate was then concentrated to a solid. All crude materials were combined and dissolved in 125 mL of benzene, treated with charcoal, filtered, and the volume reduced to 40 mL. The benzene solution was treated with 25 mL of ligroin and the product crystallized from the hot solution to give 9.7 g of crystalline product which had a pink color, mp 191°-192° C.

reactant | 4-(2,6-dichlorophenyl)-3-thiosemicarbazide | 0.04 mole, 9.4 g | ClC1=C(C(=CC=C1)Cl)NC(NN)=S | C7H7Cl2N3S
reactant | ethyl 2-chloroacetoacetate | 0.04 mole, 6.8 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-[(2,6-Dichlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 11.3 g | ClC1=C(C(=CC=C1)Cl)NC1=NNC(=C1C(=O)OCC)C | C13H13Cl2N3O2
